US09315458B2
H) 1-[4-(chloromethyl)phenyl]-1H-pyrazole
To a solution of [4-(1H-pyrazol-1-yl)phenyl]methanol (24.0 g) in 1,2-dichloroethane (200 mL) was added dropwise thionyl chloride (26.3 g) under ice-cooling, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was washed with tert-butyl methyl ether to give the title compound (23.5 g).

reactant | [4-(1H-pyrazol-1-yl)phenyl]methanol | 24.0 g | N1(N=CC=C1)C1=CC=C(C=C1)CO | C10H10N2O
reactant | thionyl chloride | 26.3 g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | 1-[4-(chloromethyl)phenyl]-1H-pyrazole | 23.5 g | ClCC1=CC=C(C=C1)N1N=CC=C1 | C10H9ClN2
